US09145393B2
To a solution of tert-butyl 3-((5-chloro-2-methoxypyridin-3-yl)amino)azetidine-1-carboxylate (2.00 g, 6.37 mmol) in dioxane/water (5:1, 38 mL) was added 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (1.85 g 8.29 mmol), Xphos-Pd-G2 (125 mg, 0.159 mmol), and K3PO4 (2.90 g, 13.7 mmol). The reaction mixture was stirred at 100° C. under nitrogen for 1 h. After cooling to RT, the reaction mixture was filtered and washed with ethyl acetate (100 mL). The organic layer was washed with water (60 mL), brine (60 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to obtain 2.4 g of tert-butyl 3-((2′-fluoro-6-methoxy-[3,4′-bipyridin]-5-yl)amino)azetidine-1-carboxylate as a white yellow solid (100%): 1H NMR (400 MHz, CDCl3) δ 8.17 (d, J=5.3 Hz, 1H), 7.75 (d, J=2.2 Hz, 1H), 7.24 (dt, J=5.5, 1.6 Hz, 1H), 6.96 (t, J=1.5 Hz, 1H), 6.58 (d, J=2.1 Hz, 1H), 4.60 (d, J=6.5 Hz, 1H), 4.29 (dd, J=8.9, 7.1 Hz, 2H), 4.19 (qd, J=6.7, 5.7, 1.9 Hz, 1H), 3.99 (s, 3H), 3.75 (dd, J=9.1, 4.7 Hz, 2H), 1.38 (s, 9H); MS (ES) m/z 375 (M+H).

reactant | tert-butyl 3-((5-chloro-2-methoxypyridin-3-yl)amino)azetidine-1-carboxylate | 6.37 mmol, 2.00 g | ClC=1C=C(C(=NC1)OC)NC1CN(C1)C(=O)OC(C)(C)C | C14H20ClN3O3
reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 8.29 mmol, 1.85 g | FC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
reactant | K3PO4 | 13.7 mmol, 2.90 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane water | 38 mL | O1CCOCC1.O
product | tert-butyl 3-((2′-fluoro-6-methoxy-[3,4′-bipyridin]-5-yl)amino)azetidine-1-carboxylate | 2.4 g, 100% | FC1=NC=CC(=C1)C=1C=NC(=C(C1)NC1CN(C1)C(=O)OC(C)(C)C)OC | C19H23FN4O3
